US04925838
A solution of (2S,4S)-2-[(3S)-3-t-butoxycarbonylaminopyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (2.14 g) in a mixture of trifluoroacetic acid (10 ml) and anisole (1 ml) was stirred on ice-bath for 1 hour. The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (100 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate (50 ml) and saturated aqueous sodium chloride, dried over magnesium sulfate, and evaporated in vacuo to give a residue of (2S,4S)-2-[(3S)-3-aminopyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine. To a solution of the residue in a mixture of ethyl acetate (40 ml) and water (20 ml) was dropwise added a solution of 4-nitrobenzyloxycarbonyl chloride (1.06 g) in tetrahydrofuran (10 ml) under ice-cooling, keeping the pH between 8 and 9 with 1N aqueous sodium hydroxide solution. The mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added ethyl acetate (50 ml). The solution was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylamino)pyrrolidin-1-yl]methyl-4-(triphenylmethylthio)pyrrolidine (1.89 g).

reactant | (2S,4S)-2-[(3S)-3-t-butoxycarbonylaminopyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 2.14 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C41H46N4O6S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-[(3S)-3-aminopyrrolidin-1-yl]methyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | N[C@@H]1CN(CC1)C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H38N4O4S
